### PR TITLE
feat(Combinatorics/SimpleGraph): bounds for `extremalNumber` and `turanDensity`

### PR DESCRIPTION
**Pull request by mitchell-horner**
Add bounds for `extremalNumber` and `turanDensity`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 1]
```diff
@@ -165,4 +184,17 @@ theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos :
   apply Nat.find_spec <| eventually_atTop.mp <| eventually_isContained_of_card_edgeFinset H hε_pos
   simpa only [turanDensityConst, hε_pos, ↓reduceDIte] using h_verts
 
+/-- There are at least `card W` many vertices at `turanDensityConst`, since simple graphs on
+fewer vertices cannot contain `H`. -/
+theorem card_le_turanDensityConst [Fintype W] (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε)
+    (h : H.turanDensity + ε ≤ 1) : card W ≤ turanDensityConst H ε := by classical
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
    (h : H.turanDensity + ε ≤ 1) : card W ≤ turanDensityConst H ε := by 
  classical
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 2]
```diff
@@ -165,4 +184,17 @@ theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos :
...
+  rw [turanDensityConst, dif_pos hε_pos, Nat.le_find_iff]
+  intro m hm hp
+  obtain ⟨f⟩ := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: let's have a type annotation here for readability

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 3]
```diff
@@ -165,4 +184,17 @@ theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos :
...
+    apply hp m le_rfl (G := (⊤ : SimpleGraph (Fin m)))
+    rw [card_edgeFinset_top_eq_card_choose_two, Fintype.card_fin, ge_iff_le]
+    exact mul_le_of_le_one_left (Nat.cast_nonneg _) h
+  have : card W ≤ m := by simpa using Fintype.card_le_of_embedding f.toEmbedding
+  omega
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: does `lia` work here?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I don't know why I had `omega` there to begin with... I can just use `absurd` early and have `simpa` finish.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 4]
```diff
@@ -97,6 +97,25 @@ theorem turanDensity_eq_csInf (H : SimpleGraph W) :
   have h := isGLB_turanDensity H
   (h.csInf_eq h.nonempty).symm
 
+theorem turanDensity_le_extremalNumber_div_choose_two (H : SimpleGraph W) {n : ℕ} (hn : n ≥ 2) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
theorem turanDensity_le_extremalNumber_div_choose_two (H : SimpleGraph W) {n : ℕ} (hn : 2 ≤ n) :
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 5]
```diff
@@ -98,6 +98,25 @@ theorem turanDensity_eq_csInf (H : SimpleGraph W) :
...
+  rw [turanDensity_eq_csInf H]
+  exact csInf_le (isGLB_turanDensity H).bddBelow ⟨n, hn, rfl⟩
+
+theorem turanDensity_nonneg (H : SimpleGraph W) : 0 ≤ turanDensity H := by
+  rw [turanDensity_eq_csInf]
+  refine le_csInf ?_ (fun x ⟨m, hm, hx⟩ ↦ ?_)
+  · rw [← Set.image, Set.image_nonempty]
+    exact Set.nonempty_Ici
+  · rw [← hx]
+    positivity
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:112]:
```suggestion
  apply le_csInf <| Set.nonempty_Ici.image _
  rintro _ ⟨m, hm, rfl⟩
  positivity
```
